US05843983
6(a) Methoxymethyl {4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenyl} ether
950 mg of 4-fluorobenzaldehyde, 3860 mg of 5-fluoro-2-methoxymethoxybenzyltriphenylphosphonium chloride (prepared as described in Preparation 8) and 1.26 ml of DBU were allowed to react together in 60 ml of acetonitrile, subsequently treated, and purified by silica gel column chromatography, using a 9:1 by volume mixture of hexane and ethyl acetate as the eluent, in the same manner as described in Preparation 2, to give 2030 mg of an oily substance. 1980 mg of this oily substance were dissolved in 12 ml of a 1:2 by volume mixture of benzene and ethanol, and then 155 mg of tris-(triphenylphosphine)rhodium(I) chloride were added to the resulting solution. The mixture was then stirred under a hydrogen atmosphere at atmospheric pressure and at 60° C. for 20 hours. At the end of this time, the reaction solution was filtered with diatomaceous earth. The filtrate was concentrated by evaporation under reduced pressure, and purified by silica gel column chromatography, using a 9:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1816 mg (yield 87%) of the title compound as an oily substance.

reactant | 4-fluorobenzaldehyde | 950 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 5-fluoro-2-methoxymethoxybenzyltriphenylphosphonium chloride | 3860 mg | [Cl-].FC=1C=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)OCOC
reactant | DBU | 1.26 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
catalyst | tris-(triphenylphosphine)rhodium(I) chloride | 155 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | Methoxymethyl {4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenyl} ether | 1816 mg, yield 87% | FC1=CC(=C(C=C1)OCOC)CCC1=CC=C(C=C1)F | C16H16F2O2
